US03966801
β-(2'-chloro-4-biphenylyl)propionic acid (26 g.) is treated with thionyl chloride (18 g.) at 0°-5°C. After 10 mins the temperature is raised to 60°C for 30 mins, then the residue is distilled at 0.05 mm to give β-(2'-chloro-4-biphenylyl)propionyl chloride.

reactant | β-(2'-chloro-4-biphenylyl)propionic acid | 26 g | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(=O)O | C15H13ClO2
reactant | thionyl chloride | 18 g | S(=O)(Cl)Cl | Cl2OS
product | β-(2'-chloro-4-biphenylyl)propionyl chloride | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(=O)Cl | C15H12Cl2O
